US08222248B2
To a solution of 4-amino-3-hydroxy-benzoic acid methyl ester (2.0 g) in MeOH (100 mL) was added 2,6-dichlorobenzaldehyde (2.1 g). The reaction mixture was heated at 45° C. overnight, and then concentrated in vacuo. The residue was dissolved in THF (10 mL) and dichloromethane (90 mL). To the mixture solution was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (2.72 g). The reaction mixture was stirred for 1 h, diluted with NaHCO3 aqueous solution, extracted with EtOAc, and washed with brine. The extracts were dried over Na2SO4 and concentrated in vacuo. Purification by column chromatography (SiO2, 2:3 EtOAc/Hexane) gave 2-(2,6-dichlorophenyl)-benzooxazole-6-carboxylic acid methyl ester: MS (m/z) 321.9 (M+1).

reactant | 4-amino-3-hydroxy-benzoic acid methyl ester | 2.0 g | COC(C1=CC(=C(C=C1)N)O)=O | C8H9NO3
reactant | 2,6-dichlorobenzaldehyde | 2.1 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
solvent | MeOH | 100 mL | CO | CH4O
product | 2-(2,6-dichlorophenyl)-benzooxazole-6-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N=C(O2)C2=C(C=CC=C2Cl)Cl)C=C1 | C15H9Cl2NO3
